* ADS gain/operating-point study: original finite circuit
* MOS instance terminal order is drain gate source body; one unit each.
Vdd vdd 0 DC 1 AC 0
Vin in 0 DC 0.45000000000000001 AC 1 SIN(0.45000000000000001 0.0050000000000000001 10000)
Rsrc in gate 1000
Rload out 0 100000
Cload out 0 9.9999999999999998e-13
Idist 0 out DC 0 AC 0
Rs source 0 7037.6469640487439
Vn0d out n0d 0
Vn0g gate n0g 0
Vn0s source n0s 0
Vn0b 0 n0b 0
xn0 n0d n0g n0s n0b apm045_vtg_nmos w=2.8028982273883145e-06 l=3.509903978176605e-07
Vn1d out n1d 0
Vn1g gate n1g 0
Vn1s source n1s 0
Vn1b 0 n1b 0
xn1 n1d n1g n1s n1b apm045_vtg_nmos w=2.8028982273883145e-06 l=3.509903978176605e-07
Vbiasdiag pbias pdrive DC 0 AC 0
Rbias pbias 0 20459.581152037132
Vr0d pbias r0d 0
Vr0g pbias r0g 0
Vr0s vdd r0s 0
Vr0b vdd r0b 0
xr0 r0d r0g r0s r0b apm045_vtg_pmos w=2.1936899863603784e-06 l=2.6324279836324537e-07
Vr1d pbias r1d 0
Vr1g pbias r1g 0
Vr1s vdd r1s 0
Vr1b vdd r1b 0
xr1 r1d r1g r1s r1b apm045_vtg_pmos w=2.1936899863603784e-06 l=2.6324279836324537e-07
Vp0d out p0d 0
Vp0g pdrive p0g 0
Vp0s vdd p0s 0
Vp0b vdd p0b 0
xp0 p0d p0g p0s p0b apm045_vtg_pmos w=2.1936899863603784e-06 l=2.6324279836324537e-07
