* Analog Design Lab v2.0: one-stage P-input OTA with counted finite bias, clamped
* Zero-volt MOS sensors point into each terminal; bodies/loads are explicit.
Vdd vdd 0 DC 1 AC 0
Vcm cm 0 DC 0.29999999999999999 AC 0
Vdiff diff 0 DC 0 AC 1
Eplus inp cm diff 0 0.5
Eminus inn cm diff 0 -0.5
Vout out 0 DC 0.29999999999999999 AC 0
VtM1d mirror m1d 0
VtM1g inp m1g 0
VtM1s tail m1s 0
VtM1b vdd m1b 0
xm1 m1d m1g m1s m1b apm045_vtg_pmos w=3.9999999999999998e-06 l=2.3999999999999998e-07
VtM2d out m2d 0
VtM2g inn m2g 0
VtM2s tail m2s 0
VtM2b vdd m2b 0
xm2 m2d m2g m2s m2b apm045_vtg_pmos w=3.9999999999999998e-06 l=2.3999999999999998e-07
VtM3d mirror m3d 0
VtM3g mirror m3g 0
VtM3s 0 m3s 0
VtM3b 0 m3b 0
xm3 m3d m3g m3s m3b apm045_vtg_nmos w=3.9999999999999998e-06 l=2.3999999999999998e-07
VtM4d out m4d 0
VtM4g mirror m4g 0
VtM4s 0 m4s 0
VtM4b 0 m4b 0
xm4 m4d m4g m4s m4b apm045_vtg_nmos w=3.9999999999999998e-06 l=2.3999999999999998e-07
VtM5d tail m5d 0
VtM5g bias m5g 0
VtM5s vdd m5s 0
VtM5b vdd m5b 0
xm5 m5d m5g m5s m5b apm045_vtg_pmos w=3.9999999999999998e-06 l=2.3999999999999998e-07
VtM6d bias m6d 0
VtM6g bias m6g 0
VtM6s vdd m6s 0
VtM6b vdd m6b 0
xm6 m6d m6g m6s m6b apm045_vtg_pmos w=9.9999999999999995e-07 l=3.9999999999999998e-07
Rbias bias 0 273692.63541213644
Rload out 0 1000000
Cload out 0 4.9999999999999997e-12
